2195-11-20 06:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Management of post op patient
   24 Hour Events:
   Persistent sinus tachycardia all night. With adequate BP. Not
   responding to fluid boluses. Maintiaing adequate uop. Hct stable.
   Thought to be due to post op pain. Increased dilaudid pca to 0.25.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-11-20**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2195-11-20**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-20**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 114 (103 - 124) bpm
   BP: 132/89(98) {129/85(95) - 138/91(103)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 100%
             Total In:
                                                                  3,000 mL
                                                                    869 mL
   PO:
             TF:
   IVF:
   869 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                    130 mL
   Urine:
   130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,850 mL
                                                                    739 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: somnolent but arousable, NAD
   HEENT: eomi, face mask present
   Lungs: CTA b/l anteriorly
   CV: Tachycardic, no m/r/g
   Abd: midline surgical scar with dressing in place, diffuse abdominal
   tenderness, soft abdomen, decreased bowel sounds, no guarding or
   rebound, 1 cm lap wounds bilaterally that are uncovered.
   GU: foley present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   129 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   11 mg/dL
   104 mEq/L
   133 mEq/L
        [image002.jpg]
                             [**2195-11-19**]  11:44 PM
   Cr
   0.5
   Glucose
   129
   Other labs: Ca++:8.3 mg/dL, Mg++:1.6 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 46 yo female with h/o uterine fibroids, hyperlipidemia, who
   was admitted for hyesterectomy complicated by bowel perforation, now
   s/p bowel resection.
   .
   1.  Bowel perforation.  Patient with bowel perforation following
   hysterectomy with evidence of stool in abdomen during surgery, now s/p
   resection of bowel.  Patient is currently hemodynamically stable with
   the exception of tachycardia.  She received levo/flagyl pre-operatively
   and will broaden to vanco/zosyn.  Anticipate long post-operative course
   and at high risk for post-op ileus.
   - Vanco/Zosyn
   - f/u blood cultures
   - f/u urine output with goal of 30-50 cc/hour
   - IVFs to keep MAPs > 60
   - NPO with NGT to suction
   - Surgery & Ob/Gyn following
   - pain management with dilaudid IV prn and will institute bowel reg
   when able to take POs
   .
   2.  Pain.  Patient's pain is likely secondary abdominal discomfort from
   sugery and bowel perforation.  CTA did not show PE earlier today.
   - dilaudid pca for pain control
   .
   3.  Uterine fibroids.  Patient is s/p hysterectomy complicated by bowel
   perforation.
   - Ob/gyn following
   - post-operative pain management with dialudid IV prn
   .
   4.  Tachycardia.  Patient noted to be newly tachycardic following
   surgery.  Likely secondary to to abdominal discomfort from sugery and
   bowel perforation.  CTA did not show PE earlier today.  Patient is
   afebrile.  EBL of only 50 cc.
   - monitor on telementry
   - dilaudid PCA for pain management
   - consider fluid boluses if there is no response to pain control
   - serial Hcts
   .
   5.  Hyperlipidemia.
   - resume simvastatin when tolerating POs
   ICU Care
   Nutrition:
   Glycemic Control: Comments: not needed
   Lines:
   18 Gauge - [**2195-11-19**] 11:11 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: unable to obtain ICU consent due to sedation
   Code status: Full code
   Disposition: ICU for now

2195-11-20 10:00:00 Physician Attending Progress Note
Chief Complaint: Peritonitis, tachycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   AFebrile overnight. HR varying from 103-130 with stable BP; no clear
   correlation between fluid boluses and HR. PCA increased with some
   response in HR. O2 sats excellent.
   UO 30-50 cc/hr.
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-11-20**] 12:30 AM
   Heparin Sodium (Prophylaxis) - [**2195-11-20**] 12:30 AM
   Other medications:
   Dilaudid PCA, vancomycin, zosyn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-20**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 113 (103 - 126) bpm
   BP: 133/89(99) {125/81(94) - 138/91(103)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,000 mL
                                                                    906 mL
   PO:
             TF:
   IVF:
   906 mL
   Blood products:
   Total out:
                                                                    150 mL
                                                                    475 mL
   Urine:
   475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,850 mL
                                                                    431 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Clear anterior and lateral)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing, Negative
   Homans bilaterally
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   290 K/uL
   130 mg/dL
   0.5 mg/dL
   25 mEq/L
   4.2 mEq/L
   11 mg/dL
   102 mEq/L
   131 mEq/L
   27.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2195-11-19**]  11:44 PM
                             [**2195-11-20**]  05:22 AM
                             [**2195-11-20**]  07:50 AM
   WBC
   13.6
   Hct
   27.5
   Plt
   290
   Cr
   0.5
   0.5
   Glucose
   129
   130
   Other labs: Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:4.0 %, Eos:1.0 %, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   TACHYCARDIA
   ANEMIA
   =========================
   Tachycardia consistent with a sinus tachycardia (mild slowing with
   carotid sinus massage).  Continue fluid boluses to keep UO above 50
   cc/hr. Patient is anxious (will get social work to help confirm care
   for her son); consider mild benzodiazepine. No evidence for DVT on
   exam; no chest discomfort. Denies dyspnea.
   Maintain antibiotics for peritonitis.
   Hct down post-operatively. No evidence of active bleeding. Not at
   transfusion threshold.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-19**] 11:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2195-11-21 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - OB wants to start TPN, put pt. in for PICC
   - afebrile, tachycardic-->likely related to pain/anxiety
   - on vanc/zosyn
   - f/u pain/anxiety control-->started toradol
   - IVF for tachycardia-->titrating to UOP of 50cc's/hr, but pt had
   increasing oxygen requirement, so balancing fluid with O2 sats
   - Na increasing with IVF resuscitation, likely hypovolemic hyponatremia
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-11-20**] 07:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-11-20**] 11:04 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-11-20**] 11:37 PM
   Heparin Sodium (Prophylaxis) - [**2195-11-20**] 11:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Says that pain is currently well controlled
   Flowsheet Data as of  [**2195-11-21**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.3
C (99.2
   HR: 100 (99 - 122) bpm
   BP: 116/63(74) {110/61(73) - 133/89(99)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  5,642 mL
                                                                  1,116 mL
   PO:
             TF:
   IVF:
                                                                  5,642 mL
                                                                  1,116 mL
   Blood products:
   Total out:
                                                                    896 mL
                                                                    265 mL
   Urine:
                                                                    896 mL
                                                                    215 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                  4,746 mL
                                                                    851 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   Gen: somnolent but arousable, NAD
   HEENT: eomi, face mask present
   Lungs: CTA b/l anteriorly, decreased BS at bases with some crackles
   CV: Tachycardic, no m/r/g
   Abd: midline surgical scar with dressing in place, diffuse abdominal
   tenderness, soft abdomen, decreased bowel sounds, no guarding or
   rebound, 1 cm lap wounds bilaterally that are uncovered.
   GU: foley present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   266 K/uL
   6.7 g/dL
   99 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.3 mEq/L
   12 mg/dL
   108 mEq/L
   138 mEq/L
   20.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2195-11-19**]  11:44 PM
                             [**2195-11-20**]  05:22 AM
                             [**2195-11-20**]  07:50 AM
                             [**2195-11-20**]  03:43 PM
                            [**2195-11-21**]  03:20 AM
   WBC
   13.6
   11.9
   Hct
   27.5
   20.8
   Plt
   290
   266
   Cr
   0.5
   0.5
   0.5
   0.5
   Glucose
   129
   130
   127
   99
   Other labs: PT / PTT / INR:12.4/34.2/1.0, ALT / AST:[**9-25**], Alk Phos / T
   Bili:37/0.5, Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %,
   Mono:4.0 %, Eos:1.0 %, Ca++:6.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 46 yo female with h/o uterine fibroids, hyperlipidemia, who
   was admitted for hyesterectomy complicated by bowel perforation, now
   s/p bowel resection.
   .
   1.  Bowel perforation.  Patient with bowel perforation following
   hysterectomy with evidence of stool in abdomen during surgery, now s/p
   resection of bowel.  Patient is currently hemodynamically stable with
   the exception of tachycardia.  She received levo/flagyl pre-operatively
   and will broaden to vanco/zosyn.  Anticipate long post-operative course
   and at high risk for post-op ileus.
   - Vanco/Zosyn-leukocytosis improving
   - f/u blood cultures
NGTD
   - f/u urine output with goal of 30-50 cc/hour
   - IVFs to keep MAPs > 60
   - NPO with NGT to suction-will start  TPN, will not advance diet until
   patient is passing gas and having BM
   - Surgery & Ob/Gyn following, surgery changing bandages for post-op
   wound care
   - pain management with dilaudid PCA and standing toradol and will
   institute bowel reg when able to take POs
   .
   2.  Tachycardia.  Patient noted to be newly tachycardic following
   surgery.  Likely secondary to to abdominal discomfort, anemia, and
   intravascular volume depletion.  CTA negative for PE.  Patient remains
   afebrile, tachycardia improving with increased PCA use and IVF
   hydration.
   - monitor on telementry
   - dilaudid PCA and toradol for pain management
   - patient aggressively hydrated with IVF with some improvement in
   tachycardia and urine output
   - serial Hcts
patient with HCT=20.8 today, will type and screen and
   transfuse 1unti PRBC
   .
   3.  Uterine fibroids.  Patient is s/p hysterectomy complicated by bowel
   perforation.
   - Ob/gyn following
   - post-operative pain management with dialudid PCA and toradol x 3 days
   .
   4.  Hyperlipidemia.
   - resume simvastatin when tolerating POs
   ICU Care
   Nutrition: NPO, PICC line placed for TPN
   -replete potassium IV, hyponatremia resolving with IVF hydration
   Glycemic Control:
   Lines:  PICC line
   18 Gauge - [**2195-11-19**] 11:11 PM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Likely call out to the floor today as long as her HCT
   remains stable post transfusion
   ------ Protected Section ------
   MICU Attending Addendum
   On this day I examined the patient and reviewed the history and
   relevant lab and imaging data.  I was present for the key portions of
   the services provided. I have reviewed Dr [**Last Name (STitle) 10627**]
s note and agree with
   her findings and plan of care.   The patient seems to be doing better
   following bowel resection for peritonitis and bowel perf following
   hysterectomy.  WBC is lower, she
s hemodynamically stable, and pain
   seems under reasonable control.  She
s received lots of fluids and has
   L>R effusions, but is in no resp distress.  We
ll transfuse 1 unit prbc
   for what we think is largely dilutional anemia. If stable Hct after
   that she can likely go to floor.  As per OB/GYN, we
ll commence TPN via
   PICC.
   [**First Name8 (NamePattern2) 1620**] [**Last Name (NamePattern1) 1621**], MD
   35 min spent in this patient
s direct care
   ------ Protected Section Addendum Entered By:[**Name (NI) 1620**] [**Last Name (NamePattern1) 1621**], MD
   on:[**2195-11-21**] 14:04 ------

2195-11-22 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2195-11-21**] 12:27 PM
   - POD#2 on [**11-21**] covered broadly w vanc/zosyn, WBC trending down, Bld
   Cx Neg to date
   - dilaudid PCA and toradol, pt states pain controlled
   - NPO.  Starting TPN per Ob/Gyn
   - Hct 20.8 [**11-21**] AM; transfused 1u pRBCs
   - consider hemolysis labs if Hct keeps dropping
   - callout to gyn floor in evening if Hct stable
   - was having chest tightness around 2:30pm, lasting for a few minutes,
   and palpitations; no changes in vital signs, denied SOB. No EKG
   changes.  not likely cardiac, but cardiac enzymes sent for 2:30pm today
   and 02:30am  --> cardiac enzymes Neg first set
   - 7:30pm: pt complaining of increased SOB (no incr O2 requirement) and
   abdominal bloating;  has hyperactive bowel sounds, lungs clear, reports
   new cough --> portable CXR and abdominal XRay done at 8:30pm
   - Abdom CT shows ileus (expected after surgery)
   - CXR shows increased fluid, particularly right side and in fissure-->
   tried 10mg IV lasix... put out good urine(starting at 2300) and is net
   Neg 850cc for the morning
   - Hct did not bump appropriately after 2u pRBCs (20.8-->24.9)--> follow
   Q4h Hct
   - has some bruising on L lower back and a little on right lateral back;
   Ob/Gyn chief not concerned about retroperitoneal bleeding --> if pt
   were going to bleed it'd be intraperitoneal, and she would already have
   post-op ascites, so it'd be difficult to evaluate on CT
   - Midnight HCT stable at 24.4  --> if midnight Hct dropped further,
   then would have considered abd/pelv CT to look for bleed;  AM Hct
   stable as well
   - complained again of chest and abdominal pain ([**5-22**] for both)--
   awakened for nursing assessment; chest pain not reproducible; last
   enzymes negative, another set pending for 3AM; morphine brought pain
   down to 2/10, and she went back to sleep; second set cardiac enzymes
   Negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2195-11-21**] 08:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2195-11-22**] 12:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2195-11-21**] 10:17 PM
   Pantoprazole (Protonix) - [**2195-11-22**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2195-11-22**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-11-22**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 96 (93 - 101) bpm
   BP: 107/72(79) {107/64(74) - 142/94(103)} mmHg
   RR: 16 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  3,046 mL
                                                                    534 mL
   PO:
             TF:
   IVF:
                                                                  2,454 mL
                                                                    247 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,630 mL
                                                                  1,530 mL
   Urine:
                                                                  2,580 mL
                                                                  1,530 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                    416 mL
                                                                   -996 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Gen: alert when awakened, does not appear to be in acute distress
   HEENT: eomi
   Lungs: CTA b/l anteriorly, decreased BS at bases with some crackles
   CV: Tachycardic w rate 90s, regular rhythm, no m/r/g
   Abd: midline surgical scar with dressing in place dry, diffuse
   abdominal tenderness, soft abdomen, hyperactive bowel sounds, no
   guarding or rebound, 1 cm lap wounds bilaterally that are uncovered.
   Back: some bruising in right lower lateral back
   GU: foley present
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   301 K/uL
   8.1 g/dL
   134 mg/dL
   0.5 mg/dL
   28 mEq/L
   3.4 mEq/L
   12 mg/dL
   105 mEq/L
   137 mEq/L
   24.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2195-11-19**]  11:44 PM
                             [**2195-11-20**]  05:22 AM
                             [**2195-11-20**]  07:50 AM
                             [**2195-11-20**]  03:43 PM
                            [**2195-11-21**]  03:20 AM
                            [**2195-11-21**]  09:19 AM
                            [**2195-11-21**]  02:42 PM
                            [**2195-11-21**]  08:04 PM
                            [**2195-11-22**]  12:01 AM
                            [**2195-11-22**]  03:29 AM
   WBC
   13.6
   11.9
   12.3
   11.2
   9.2
   Hct
   27.5
   20.8
   20.8
   24.9
   24.4
   24.6
   Plt
   290
   266
   292
   303
   301
   Cr
   0.5
   0.5
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   129
   130
   127
   99
   134
   Other labs: PT / PTT / INR:12.4/34.2/1.0, CK / CKMB /
   Troponin-T:91/2/<0.01, ALT / AST:[**12-28**], Alk Phos / T Bili:43/0.6,
   Differential-Neuts:93.0 %, Band:0.0 %, Lymph:2.0 %, Mono:4.0 %, Eos:1.0
   %, LDH:158 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 46 yo female with h/o uterine fibroids, hyperlipidemia, who
   was admitted for hyesterectomy complicated by bowel perforation, now
   s/p bowel resection.
   .
   1.  Bowel perforation.
   POD#3 s/p resection and repair of bowel.  Hemodynamically stable but
   has persistent tachycardia.  On vanco/zosyn.  Has Post-op ileus by
   abdominal Xray but hyperactive bowel sounds.  Urine output good and
   blood pressures stable overnight.
   - Vanco/Zosyn-leukocytosis improving
   - f/u blood cultures
NGTD
   - NPO with NGT to suction-will start  TPN, will not advance diet until
   patient is passing gas and having BM
   - Surgery & Ob/Gyn following, surgery changing bandages for post-op
   wound care
   - pain management with dilaudid PCA and standing toradol
   - needs bowel reg when able to take POs
   .
   2. Anemia:
   Post-operative.  Stable in last 12 hours, but was concern for possible
   intraabdominal bleed overnight.  If there were a bleed, it would not
   likely be a retroperitoneal bleed.  Consider CT abd/pelvis if Hct drops
   further
   - cont to monitor Hct
   .
   3.  Tachycardia.  Patient noted to be newly tachycardic following
   surgery.  Likely secondary to abdominal discomfort, anemia, and
   intravascular volume depletion.  CTA negative for PE.  Patient remains
   afebrile, appears adequately hydrated. States that pain controlled by
   PCA pump and toradol.
   - monitor on telemetry
   - monitor renal function w standing toradol
 do not use for more than
   3 days
check w pharmacy
   - serial Hcts stable for last 12 hours
   .
   4.  Uterine fibroids.  Patient is s/p hysterectomy complicated by bowel
   perforation.
   - Ob/gyn following
   - post-operative pain management with dialudid PCA and toradol x 3 days
   .
   5.  Hyperlipidemia.
   - resume simvastatin when tolerating POs
   ICU Care
   Nutrition: TPN
   TPN without Lipids - [**2195-11-21**] 06:15 PM 42 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2195-11-19**] 11:11 PM
   PICC Line - [**2195-11-21**] 12:27 PM
   Prophylaxis:
   DVT: subq heparin
   Stress ulcer: IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: